US06967201B1
1-(4-methyl-5-fluorofluorobenzofur-7-yl)-3(S)-methylpiperazine Hydrochloride
Beginning with 4-methyl-5-fluoro-7-bromobenzofuran and 2(S)-methylpiperazine, 1-(4-methyl-5-fluorofluorobenzofur-7-yl)-3(S)-methylpiperazine was prepared as described. A solution of this material in methanol was treated with a methanolic solution containing one equivalent of ammonium chloride. The mixture was slowly concentrated under reduced pressure. The residue was triturated with diethyl ether and the solid collected by filtration to provide the title compound.

reactant | 4-methyl-5-fluoro-7-bromobenzofuran | CC1=C(C=C(C2=C1C=CO2)Br)F | C9H6BrFO
reactant | 2(S)-methylpiperazine | C[C@@H]1NCCNC1 | C5H12N2
reactant | 1-(4-methyl-5-fluorofluorobenzofur-7-yl)-3(S)-methylpiperazine | CC1=C(C=C(C2=C1C=C(O2)F)N2C[C@@H](NCC2)C)F | C14H16F2N2O
reactant | ammonium chloride | one equivalent | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 1-(4-methyl-5-fluorofluorobenzofur-7-yl)-3(S)-methylpiperazine Hydrochloride | Cl.CC1=C(C=C(C2=C1C=C(O2)F)N2C[C@@H](NCC2)C)F | InChI=1S/C14H16F2N2O.ClH/c1-8-7-18(4-3-17-8)12-6-11(15)9(2)10-5-13(16)19-14(10)12;/h5-6,8,17H,3-4,7H2,1-2H3;1H/t8-;/m0./s1
